US03965113
0.84 G. of 57% sodium hydride is added to 3.0 g. p-methylthiophenol in 20 ml. dimethylformamide, 4.3 G. 2-acetamido-4-chloro-1-nitrobenzene is added and the mixture heated at 140°-145°C for 5 hours, cooled and treated with water. The crude product is filtered off, washed with water and pentane. Recrystallization from methanol gives 2-acetamido-4-(p-methylthiophenoxy)-1-nitrobenzene.

reactant | sodium hydride | [H-].[Na+]
reactant | p-methylthiophenol | CC1=CC=C(C=C1)S | C7H8S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-acetamido-4-chloro-1-nitrobenzene | C(C)(=O)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C8H7ClN2O3
solvent | water | O | H2O
product | 2-acetamido-4-(p-methylthiophenoxy)-1-nitrobenzene | C(C)(=O)NC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C15H14N2O3S
